US08124606B2
Compound 81: 7-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-4-methyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one
7-(hydroxymethyl)-4-methyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one (85.0 mg, 0.44 mmol) was suspended in propionitrile (1 mL) and (cyanomethyl)trimethylphosphonium iodide (123.0 mg, 0.51 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (180 ul, 1.03 mmol). To the stirred mixture was then added 1-(4-chlorophenyl) piperazine hydrochloride (104.8 mg, 0.45 mmol). The reaction was heated to 90° C. with stirring for 2 h. The reaction was then cooled to room temperature and diluted with water (3 mL) and filtered. The solids were collected and refluxed in ethanol (5 mL) for 1 h. The suspension was cooled back to room temperature and filtered. The precipitate was filtered off and dried in vacuum to afford the title compound (14.7 mg, 8%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.50 (s, 1H), 7.63 (d, J=1.8 Hz, 1H), 7.21 (d, J=9.1 Hz, 2H), 6.96 (d, J=2.0 Hz, 1H), 6.92 (d, J=9.1 Hz, 2H), 3.93 (s, 2H), 3.34 (s, 2H), 3.10 (br. s., 4H), 2.91 (s, 3H), 2.46 (br. s., 4H). [M+H] calc'd for C19H22ClN5O, 372. found, 372.

reactant | 7-(hydroxymethyl)-4-methyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one | 0.44 mmol, 85.0 mg | OCC1=CC2=C(N(CC(N2)=O)C)N=C1 | C9H11N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.51 mmol, 123.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.03 mmol, 180 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-chlorophenyl) piperazine hydrochloride | 0.45 mmol, 104.8 mg | Cl.ClC1=CC=C(C=C1)N1CCNCC1
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
solvent | water | 3 mL | O | H2O
product | 7-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-4-methyl-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one | 14.7 mg, 8% | ClC1=CC=C(C=C1)N1CCN(CC1)CC1=CC2=C(N(CC(N2)=O)C)N=C1 | C19H22ClN5O
